US07074817B2
{1-Benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetic acid
2-{1-Benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}-2-oxoacetic acid was prepared from ethyl {1-benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetate (0.064 g, 0.142 mmol), and potassium hydroxide (0.0471 g, 0.839 mmol) in THF (2.5 mL) and water (2.5 mL) according to the procedure described in Step 4 of Example 5. The title compound was obtained as a light yellow solid (0.0497 g, 89%), mp: 183-184° C. Mass spectrum (+APCI, [M+H]+) m/z 424; 1HNMR (400 MHz, DMSO-d6): δ 13.5-14.0 (br s, 1H), 8.65 (s, 1H), 7.65-7.7 (m, 3H), 7.25-7.45 (m, 8H), 7.2 (dd, 1H, J=7.3 Hz and 0.73 Hz), and 5.65 ppm (s, 2H).

reactant | ethyl {1-benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetate | 0.142 mmol, 0.064 g | C(C1=CC=CC=C1)N1C=C(C2=C(C=CC=C12)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO3
reactant | potassium hydroxide | 0.839 mmol, 0.0471 g | [OH-].[K+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
product | {1-Benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetic acid | C(C1=CC=CC=C1)N1C=C(C2=C(C=CC=C12)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)=O | C24H16F3NO3
